US04235902
Preparation of 2-Oximino-4-methyltetrahydro-1,4-oxazin-3-one
While maintaining the temperature near -55°, a solution of 11.5 grams of 4-methyltetrahydro-1,4-oxazin-3-one dissolved in 100 ml of anhydrous tetrahydrofuran was added over a period of twenty minutes to a slurry of 14.6 grams of potassium t-butoxide in 100 ml of tetrahydrofuran vigorously stirring under a nitrogen atmosphere. After equilibrating the resultant mixture for 30 minutes at -60°, a solution of 11.4 grams of isobutyl nitrite in 50 ml of tetrahydrofuran was added over 15 minutes while maintaining the temperature at -60° with external cooling. After a 15-minute equilibration at -60°, the reaction mixture was brought to 25° and stirred for 3 hours. The solution was then cooled to 0° and neutralized to pH 5 with 65 ml of a solution of 18 ml of conc. hydrochloric acid diluted to 100 mls. with absolute ethanol. After a 15-minute equilibration, potassium chloride was filtered off and the solvent removed in vacuuo. The resulting oil was triturated with 50 ml of ethyl acetate and the resulting solid was collected and then recrystallized from 150 ml. of acetonitrile yielding 5.07 g of the oxime product, mp. 199°-201°.

reactant | 4-methyltetrahydro-1,4-oxazin-3-one | 11.5 grams | CN1C(COCC1)=O | C5H9NO2
reactant | potassium t-butoxide | 14.6 grams | CC(C)([O-])C.[K+]
reactant | isobutyl nitrite | 11.4 grams | N(=O)OCC(C)C | C4H9NO2
reactant | hydrochloric acid | 18 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-Oximino-4-methyltetrahydro-1,4-oxazin-3-one | N(O)=C1OCCN(C1=O)C | C5H8N2O3
